US06413938B1
4,5-Dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)1H-benzimidazol-2-amine
4,5-Dichloro-N-(1-methylethyl)-1H-benzimidazol-2-amine (0.50 g, 2.0 mmol), N,O-bis(trimethylsilyl) acetamide (Aldrich, 0.55 mL, 2.2 mmol), and acetonitrile (Aldrich Sure Seal, 70 mL) were combined and refluxed under nitrogen for 15 min. The solution was cooled to rt and trimethylsilyl trifluoromethanesulfonate (Aldrich, 0.24 mL, 1.2 mmol) was added. After 10 min, 1,2,3-tri-O-acetyl-5-deoxy-D-ribofuranose (0.69 g, 2.6 mmol) dissolved in acetonitrile (Aldrich Sure Seal, 10 mL) was added. The solution was stirred under nitrogen at rt for 12 h and then heated in an 80° C. oil bath for 2.5 h. The solution was then poured into 5% aqueous sodium bicarbonate (50 mL) and extracted with ethyl acetate (3×100 mL). The organic layers were dried with magnesium sulfate, filtered, and evaporated. The crude residue was purified on a silica gel column (2.5×20 cm, 230-400 mesh) with 97:3 dichloromethane-methanol to give the title compound (0.82 g, 1.8 mmol, 90%); 1H NMR (DMSO-d6) δ: 7.29 (s, 1H, Ar—H, J=8.4 Hz), 7.10 (s, 1H, Ar—H, J=8.4 Hz), 6.98 (d, 1H, NH, J=7.5 Hz), 6.10 (d, 1H, H-1′, J=6.3 Hz), 5.50-5.55 (m, 1H, CH), 5.15 (t, 1H, CH, J=6.0 Hz), 4.04-4.17 (m, 2H, CH), 2.14 (s, 3H, OAc), 2.01 (s, 3H, OAc), 1.48 (d, 3H, 5′-CH3, J=6.3 Hz), 1.24 (t, 6H, CH3, J=6.2 Hz).

reactant | 4,5-Dichloro-N-(1-methylethyl)-1H-benzimidazol-2-amine | 2.0 mmol, 0.50 g | ClC1=C(C=CC=2NC(=NC21)NC(C)C)Cl | C10H11Cl2N3
reactant | N,O-bis(trimethylsilyl) acetamide | 2.2 mmol, 0.55 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl trifluoromethanesulfonate | 1.2 mmol, 0.24 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,2,3-tri-O-acetyl-5-deoxy-D-ribofuranose | 2.6 mmol, 0.69 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 4,5-Dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)1H-benzimidazol-2-amine | 1.8 mmol, 0.82 g, 90% | ClC1=C(C=CC=2N(C(=NC21)NC(C)C)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)Cl | C19H23Cl2N3O5
